US06133258
The reaction procedure of Example 57 was followed except that 162 mg of 2-chloronicotinoyl chloride, 72 mg of ammonium thiocyanate and 169 mg of ethyl 4-(methylamino)benzoate were used. As a result, 279 mg of ethyl 4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoate was obtained.

reactant | 2-chloronicotinoyl chloride | 162 mg | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
reactant | ammonium thiocyanate | 72 mg | [S-]C#N.[NH4+]
reactant | ethyl 4-(methylamino)benzoate | 169 mg | CNC1=CC=C(C(=O)OCC)C=C1 | C10H13NO2
product | ethyl 4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoate | 279 mg | CN(C=1SC2=C(C(N1)=O)C=CC=N2)C2=CC=C(C(=O)OCC)C=C2 | C17H15N3O3S
